US06689922B1
5-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]vinyl}-benzene-1,3-diol
In a manner similar to Example 8(k), by reacting 4.50 g (7.6 mmol) of 2-[6-(3-{2-[3-(tetrahydropyran-2-yl)-5-(tetrahydropyran-2-yloxy)phenyl]-vinyl}phenyl)-1,1-dimethylhexyloxy]tetrahydropyran with the solution of 100 ml of acetic acid, 50 ml of THF and 25 ml of water, and after purification on a silica column (ethyl acetate 50-heptane 50), beige crystals (m=1.23 g; Y=48%) are obtained. m.p.=98-100° C.

reactant | 2-[6-(3-{2-[3-(tetrahydropyran-2-yl)-5-(tetrahydropyran-2-yloxy)phenyl]-vinyl}phenyl)-1,1-dimethylhexyloxy]tetrahydropyran | 7.6 mmol, 4.50 g | O1C(CCCC1)C=1C=C(C=C(C1)OC1OCCCC1)C=CC=1C=C(C=CC1)CCCCCC(OC1OCCCC1)(C)C | C37H52O5
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | 25 ml | O | H2O
product | 5-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]vinyl}-benzene-1,3-diol | OC(CCCCCC=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O)(C)C | C22H28O3
